US06855722B2
Triflic anhydride (2.9 mL, 17 mmol) was added dropwise to a solution of triphenylphosphine oxide (4.8 g, 17 mmol) in 1,2-dichloroethane (40 mL) at 0° C. The resulting suspension was stirred for 15 minutes, followed by the dropwise addition of a solution of 3-naphthalen-2-yl-3-oxo-propionic acid ethyl ester (3.2 g, 12 mmol) in 1,2-dichloroethane (40 mL). After the addition was complete, triethylamine (4.0 mL, 29 mmol) was added and the reaction mixture was heated at reflux for 1 hr. The solution was cooled to room temperature, washed with water, and dried (MgSO4). The solvent was removed under reduced pressure, and the product was purified via column chromatography with silica eluting with hexane/ethyl acetate (9/1) to yield naphthalene-2-yl-propynoic acid ethyl ester (1.15 g, 37% yield) as a yellow oil. 1H NMR (CDCl3) δ 8.25 (s, 1H), 7.95 (m, 3H), 7.66 (m, 3H), 4.46 (m, 2H), 1.51 (t, 3H, J=8.0 Hz).

reactant | Triflic anhydride | 17 mmol, 2.9 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triphenylphosphine oxide | 17 mmol, 4.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | 3-naphthalen-2-yl-3-oxo-propionic acid ethyl ester | 12 mmol, 3.2 g | C(C)OC(CC(=O)C1=CC2=CC=CC=C2C=C1)=O | C15H14O3
reactant | triethylamine | 29 mmol, 4.0 mL | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | naphthalene-2-yl-propynoic acid ethyl ester | 1.15 g, 37% yield | C(C)OC(C#CC1=CC2=CC=CC=C2C=C1)=O | C15H12O2
